US03969463
Using the method of Example 49, 8-amino-9-chloro-6,7-dihydro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid is reacted with acetic anhydride to provide 8-acetamido-9-chloro-6,7-dihydro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid m.p. 234°-236° C.

reactant | 8-amino-9-chloro-6,7-dihydro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | NC1=C(C=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O)Cl | C14H13ClN2O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 8-acetamido-9-chloro-6,7-dihydro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | C(C)(=O)NC1=C(C=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O)Cl | C16H15ClN2O4
